US09371295B2
Step 1: tert-butyl(2-(2-methoxyquinolin-3-yl)-2-oxoethyl)carbamate
To a solution of mesyl bromide (17.23 mmol) in 10 mL of THF cooled to −78° C. was added a 1.7 M THF solution of tBuLi (34.5 mmol) dropwise. The mixture was left stirring at −78° C. for 1 h. The mixture was then allowed to reach 0° C. and a solution of 2-methoxyquinoline (12.9 mmol) in THF (40 mL) was added dropwise over 10 min. The resulting mixture was aged at 0° C. for 1 h, cooled to −78° C. and added dropwise with a solution of tert-butyl(2-(methoxy(methyl)amino)-2-oxoethyl)carbamate (4.31 mmol) in 20 mL of THF. The mixture was stirred at −78° C. for 30 min then left at room temperature over night. The mixture was diluted with DCM and washed with sat. aq. NaHCO3, dried (Na2SO4), concentrated under reduced pressure and the crude product was purified by flash chromatography (SiO2, Petroleum ether/EtOAc, from 5% to 40% EtOAc). Pooled fractions were concentrated under vacuum to title product (1.01 g). MS (ES) C17H20N2O4 requires: 316.35, found: 317.

reactant | mesyl bromide | 17.23 mmol | S(=O)(=O)(C)Br | CH3BrO2S
reactant | tBuLi | 34.5 mmol | [Li]C(C)(C)C
reactant | 2-methoxyquinoline | 12.9 mmol | COC1=NC2=CC=CC=C2C=C1 | C10H9NO
reactant | tert-butyl(2-(methoxy(methyl)amino)-2-oxoethyl)carbamate | 4.31 mmol | C(C)(C)(C)OC(NCC(=O)N(C)OC)=O | C9H18N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | 1.7 M | C1CCOC1 | C4H8O
product | tert-butyl(2-(2-methoxyquinolin-3-yl)-2-oxoethyl)carbamate | C(C)(C)(C)OC(NCC(=O)C=1C(=NC2=CC=CC=C2C1)OC)=O | C17H20N2O4
